US06489327B1
2,2-Bis-{4-[4-(4-aminomethylbenzylcarbamoyl)-1-piperazinylcarbonyloxy]phenyl}propane dihydrochloride (36) (cf. FIG. 12)
0.14 g of 2,2-bis-{4-[4-(4-tert-butoxycarbonylaminomethylbenzylcarbamoyl)-1-piperazinylcarbonyloxy]-phenyl}propane is dissolved in 2 ml of abs. dioxane, and 2 ml of an approx. 20% solution of hydrogen chloride in dioxane is added to this solution. The mixture is stirred overnight and the precipitate is filtered off with suction, washed twice with diethyl ether and dried in vacuo. 0.08 g of the title compound, having a m.p. of from 250° C. (decomposition), is obtained.

reactant | 2,2-bis-{4-[4-(4-tert-butoxycarbonylaminomethylbenzylcarbamoyl)-1-piperazinylcarbonyloxy]-phenyl}propane | 0.14 g | C(C)(C)(C)OC(=O)NCC1=CC=C(CNC(=O)N2CCN(CC2)C(=O)OC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OC(=O)N2CCN(CC2)C(NCC2=CC=C(C=C2)CNC(=O)OC(C)(C)C)=O)C=C1 | C53H68N8O10
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,2-Bis-{4-[4-(4-aminomethylbenzylcarbamoyl)-1-piperazinylcarbonyloxy]phenyl}propane dihydrochloride | Cl.Cl.NCC1=CC=C(CNC(=O)N2CCN(CC2)C(=O)OC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OC(=O)N2CCN(CC2)C(NCC2=CC=C(C=C2)CN)=O)C=C1 | InChI=1S/C43H52N8O6.2ClH/c1-43(2,35-11-15-37(16-12-35)56-41(54)50-23-19-48(20-24-50)39(52)46-29-33-7-3-31(27-44)4-8-33)36-13-17-38(18-14-36)57-42(55)51-25-21-49(22-26-51)40(53)47-30-34-9-5-32(28-45)6-10-34;;/h3-18H,19-30,44-45H2,1-2H3,(H,46,52)(H,47,53);2*1H
